US07829560B2
A mixture of 4-[2-(4-nitro-naphthalen-1-yloxy)-ethyl]-morpholine (10 g, 33.0 mmol), MeOH (80 ml) and Pd/C (10%, 1.0 g) is shaken under a hydrogen atmosphere at 30 psi for 4 hours. The mixture is then filtered through a bed of Celite under a stream of nitrogen. The filtrate is reduced under vacuum to give 4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-ylamine (7.32 g, 81.3%). 1H NMR (300 MHz, CDCl3) δ 8.21 (m, 1H), 7.81 (m, 1H), 7.49 (m, 2H), 6.69 (s, 2H), 4.23 (t, 2 H), 3.76 (t, 4H), 2.92 (t, 2H), 2.65 (t, 4H). MS: 273 (M+1).

reactant | 4-[2-(4-nitro-naphthalen-1-yloxy)-ethyl]-morpholine | 33.0 mmol, 10 g | [N+](=O)([O-])C1=CC=C(C2=CC=CC=C12)OCCN1CCOCC1 | C16H18N2O4
catalyst | Pd/C | 1.0 g | [Pd] | Pd
solvent | MeOH | 80 ml | CO | CH4O
product | 4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-ylamine | 7.32 g, 81.3% | N1(CCOCC1)CCOC1=CC=C(C2=CC=CC=C12)N | C16H20N2O2
